US07338959B2
N5-{2-[4-(1-Methanesulfonyl-ethyl)-phenylamino]-pyrimidin-4-yl}-1,N5-dimethyl-N2-(4-methyl-benzyl)-1H-benzoimidazole-2,5-diamine hydrochloride
The title compound was prepared following the procedure of example one with N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(4-methyl-benzyl)-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and 4-(1-methanesulfonyl-ethyl)-phenylamine (50 mg, 0.25 mmol) as a white solid (151 mg, 97%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.20 (s, 1H), 7.76-7.79 (M, 3H), 7.38 (m, 1H), 7.21-7.29 (m, 5H), 7.08-7.13 (M, 3H), 6.83 (d, J=8.1 Hz, 1H), 5.64 (d, J=6.0 Hz, 1H), 4.54 (d, J=5.1 Hz, 2H), 4.39 (m, 1H), 3.57 (s, 3H), 3.43 (S, 3H), 2.76 (s, 3H), 2.26 (s, 3H), 1.59 (d, J=7.2 Hz, 3H).

reactant | N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(4-methyl-benzyl)-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)C)C)C=C1)C | C21H21ClN6
reactant | 4-(1-methanesulfonyl-ethyl)-phenylamine | 0.25 mmol, 50 mg | CS(=O)(=O)C(C)C1=CC=C(C=C1)N | C9H13NO2S
product | N5-{2-[4-(1-Methanesulfonyl-ethyl)-phenylamino]-pyrimidin-4-yl}-1,N5-dimethyl-N2-(4-methyl-benzyl)-1H-benzoimidazole-2,5-diamine hydrochloride | Cl.CS(=O)(=O)C(C)C1=CC=C(C=C1)NC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)C)C)C=C1)C | InChI=1S/C30H33N7O2S.ClH/c1-20-6-8-22(9-7-20)19-32-30-34-26-18-25(14-15-27(26)37(30)4)36(3)28-16-17-31-29(35-28)33-24-12-10-23(11-13-24)21(2)40(5,38)39;/h6-18,21H,19H2,1-5H3,(H,32,34)(H,31,33,35);1H
